US04083983
Thionyl chloride (8 cc) was added over 8 minutes to a stirred solution of 3-ethoxy-2-hydroxymethylpyridine (5.6 g) in chloroform (60 cc) at room temperature. After 11/2 hrs the mixture was evaporated to dryness and the residue was recrystallized from 0.16 M ethanolic hydrogen chloride/diethyl ether (1:1) to give 2-chloromethyl-3-ethoxypyridine hydrochloride (6.5 g) m.p. 176°-179.5°. (decomp.).

reactant | Thionyl chloride | 8 cc | S(=O)(Cl)Cl | Cl2OS
reactant | 3-ethoxy-2-hydroxymethylpyridine | 5.6 g | C(C)OC=1C(=NC=CC1)CO | C8H11NO2
solvent | chloroform | 60 cc | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-3-ethoxypyridine hydrochloride | 6.5 g | Cl.ClCC1=NC=CC=C1OCC | InChI=1S/C8H10ClNO.ClH/c1-2-11-8-4-3-5-10-7(8)6-9;/h3-5H,2,6H2,1H3;1H
